US04413009
N-((ethylamino)carbonyl)-N-(((ethylamino)-carbonyl)oxy)propionamide
Propiohydroxamic acid (4.5 grams), ethyl isocyanate (8.0 grams), and a few drops of triethylamine were added to 100 ml of methylene chloride and allowed to stand at room temperature for about 12 hours. The solvent was then removed under vacuum leaving a residue which was recrystallized from a solution of methylene chloride and hexane leaving the desired, N-((ethylamino)carbonyl)-N-(((ethylamino)carbonyl)oxy)propionamide as white crystals, m.p. 104°-106° C.

reactant | Propiohydroxamic acid | 4.5 grams | C(CC)(=O)NO | C3H7NO2
reactant | ethyl isocyanate | 8.0 grams | C(C)N=C=O | C3H5NO
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-((ethylamino)carbonyl)-N-(((ethylamino)-carbonyl)oxy)propionamide | C(C)NC(=O)N(C(CC)=O)OC(=O)NCC | C9H17N3O4
